US09126998B2
Ethyl 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylate
3.00 g (12.81 mmol) of ethyl 8-hydroxy-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate Example 239A, 3.27 g (14.1 mmol) of 2-(bromomethyl)-1,3,4-trifluorobenzene and 9.18 g (28.17 mmol) of caesium carbonate were initially charged in 183 ml of dry DMF and heated for 30 min in an oil bath warmed to 60° C. About 1.8 l of water were then added, and the mixture was stirred for 30 min. The solid was filtered off, washed with water and dried under reduced pressure. This gave 5.07 g of the title compound (99% of theory; purity about 96%).

reactant | ethyl 8-hydroxy-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate | 12.81 mmol, 3.00 g | OC=1C=2N(C=C(C1)C)C(=C(N2)C)C(=O)OCC | C12H14N2O3
reactant | 2-(bromomethyl)-1,3,4-trifluorobenzene | 14.1 mmol, 3.27 g | BrCC1=C(C=CC(=C1F)F)F | C7H4BrF3
reactant | caesium carbonate | 28.17 mmol, 9.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1.8 l | O | H2O
solvent | DMF | 183 ml | CN(C)C=O | C3H7NO
product | Ethyl 2,6-dimethyl-8-[(2,3,6-trifluorobenzyl)oxy]imidazo[1,2-a]pyridine-3-carboxylate | CC=1N=C2N(C=C(C=C2OCC2=C(C(=CC=C2F)F)F)C)C1C(=O)OCC | C19H17F3N2O3
